US05097082
2,3-Dichlorohexafluorobut-2-ene (100 g) and iodine (55 g) were added to a 400 mL shaker tube. The tube was sealed, cooled, evacuated, and charged with 1500 psi of hydrogen at room temperature. The tube was then heated to 230° C. for 1 hour, 250° C. for 2 hours, and 260° C. for 15 hours. The tube was then cooled to room temperature, vented, and opened. The purple liquid was washed with water and then analyzed by GC/IR. Analysis of the washed liquid showed that it contained about 84% 2-chloro-1,1,1,4,4,4-hexafluorobutane, about 13% 2,3-dichloro-1,1,1,4,4,4-hexafluorobutane and about 1% 1,1,1,4,4,4-hexafluorobutane. The liquid was distilled on a concentric tube column yielding 35 g (41% isolated yield) of 2-chloro-1,1,1,4,4,4-hexafluorobutane (HCFC-346mdf) as a clear liquid with a b.p. of 50.9-51.4° C. 1H NMR (CHCl3 as internal standard): 4.4 ppm, complex, 1H; 2.9 ppm, complex, 1H; 2.7 ppm, complex, 1H. 19F NMR (CCl3F) as internal standard): 64.7 ppm, t, 1F; -76 ppm, d, 1F. GC/IR showed an identical spectrum to an authentic sample.

reactant | 2,3-Dichlorohexafluorobut-2-ene | 100 g | ClC(C(F)(F)F)=C(C(F)(F)F)Cl | C4Cl2F6
reactant | iodine | 55 g | II | I2
product | 2-chloro-1,1,1,4,4,4-hexafluorobutane | 35 g, 41% | ClC(C(F)(F)F)CC(F)(F)F | C4H3ClF6
